US07323475B2
b) (1,3-Dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid
5.62 g of 4-phenylsulfanyl-phthalic acid (20.5 mmol) and 1.55 g of glycine (20.5 mmol) were ground thoroughly together in a mortar. Then the mixture was heated to 210° C. to 220° C. in an oil bath. The molten mass was stirred with a spatula at this temperature for 15 min before it was allowed to cool to ambient temperature in vacuo. 6.30 g of the title compound were obtained; MS-(−)-ion: M−1=311.8; 1H NMR (DMSO-d6): δ=7.82 (d, 1H), 7.46 to 7.62 (m, 7H), 4.26 (s, 2H).

reactant | 4-phenylsulfanyl-phthalic acid | 20.5 mmol, 5.62 g | C1(=CC=CC=C1)SC=1C=C(C(C(=O)O)=CC1)C(=O)O | C14H10O4S
reactant | glycine | 20.5 mmol, 1.55 g | NCC(=O)O | C2H5NO2
product | (1,3-Dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid | 6.30 g | O=C1N(C(C2=CC(=CC=C12)SC1=CC=CC=C1)=O)CC(=O)O | C16H11NO4S
